US04428940
A solution of bromine (90 g) in carbon disulphide (100 ml) was added dropwise to a well stirred solution of O-acetyl-2-allylphenol (100 g) in carbon disulphide (300 ml) at -10° C. over 1 hour. The solution was evaporated to dryness in vacuo, to afford O-acetyl-2-allylphenol dibromide which was immediately dissolved in dry ethanol (300 ml) containing 10 ml of a saturated ethanolic-hydrogen chloride solution. The solution was heated under gentle reflux for 2 hours, and then evaporated to dryness in vacuo. The residue was triturated with n-pentane, and the solid 2-allylphenol dibromide (135 g) was collected and washed twice with portions of n-pentane. The product is pure enough for further reaction. 2-Allylphenol dibromide (135 g) in dry ethanol (300 ml) was treated with a solution of sodium ethoxide (38 g) in ethanol (100 ml) with cooling and stirring, keeping the temperature of the reaction between 30° and 35° C. After addition, the reaction was stirred at room temperature for 1 hour, and then evaporated to dryness in vacuo. The residue was partioned between n-pentane and water. The n-pentane fraction was washed with 2% sodium hydroxide solution, water, and dried (Na2SO4). Evaporation to dryness in vacuo afforded crude (2,3-dihydro-2-benzofuranyl)-methyl bromide (90 g), which distilled at 110°-118° C./0.5 mm to afford product (78 g) of slightly higher purity.

reactant | bromine | 90 g | BrBr | Br2
reactant | O-acetyl-2-allylphenol | 100 g | C(C)(=O)OC1=C(C=CC=C1)CC=C | C11H12O2
solvent | carbon disulphide | 100 ml | C(=S)=S | CS2
solvent | carbon disulphide | 300 ml | C(=S)=S | CS2
product | O-acetyl-2-allylphenol dibromide | [Br-].[Br-].C(C)(=O)OC1=C(C=CC=C1)CC=C | InChI=1S/C11H12O2.2BrH/c1-3-6-10-7-4-5-8-11(10)13-9(2)12;;/h3-5,7-8H,1,6H2,2H3;2*1H/p-2
